US04125729
Methyl [p-(p-chlorophenylsulfonyl)phenyl]acetate
A mixture of 14.62 g of methyl [p-(p-chlorophenylthio)phenyl]acetate, 100 ml of glacial acetic acid and 62.5 ml of 30% hydrogen peroxide is heated to 70° C and kept at 70° C for 3 hours. After cooling, the mixture is poured into 500 ml of water and extracted with three 100 ml portions of chloroform. The combined extracts are washed with three 100 ml portions of water, 100 ml of saturated NaHCO3, saturated brine and dried over MgSO4. Evaporation of the solvent affords an oil which crystallizes on standing to give 14.9 g of product as white crystals (from petroleum ether) mp 78°-80° C.

reactant | methyl [p-(p-chlorophenylthio)phenyl]acetate | 14.62 g | ClC1=CC=C(C=C1)SC1=CC=C(C=C1)CC(=O)OC | C15H13ClO2S
reactant | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
reactant | hydrogen peroxide | 62.5 ml | OO | H2O2
reactant | water | 500 ml | O | H2O
product | Methyl [p-(p-chlorophenylsulfonyl)phenyl]acetate | 14.9 g | ClC1=CC=C(C=C1)S(=O)(=O)C1=CC=C(C=C1)CC(=O)OC | C15H13ClO4S
